US05185446
A solution of 6,6-Dicarboethoxy-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione (25 g) in 1N NaOH (350 mL) was stirred at 40° C. for 35 min. The solution was cooled in an ice bath and acidified with 35 mL of concentrated HCl. The precipitate that formed was collected and refluxed in 20 ml of dimethylformamide (DMF) for 2 h. The reaction was cooled and the DMF removed in vacuo. To the resulting mixture 40 mL of water was added and the solid collected and dried to yield 6-Carboethoxy-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione.

reactant | 6,6-Dicarboethoxy-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | 25 g | C(=O)(OCC)C1(CC=2C(NC(NC2CC1)=O)=O)C(=O)OCC | C14H18N2O6
reactant | HCl | 35 mL | Cl | ClH
solvent | NaOH | 1N, 350 mL | [OH-].[Na+]
product | 6-Carboethoxy-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | C(=O)(OCC)C1CC=2C(NC(NC2CC1)=O)=O | C11H14N2O4
